US07432263B2
(5-Amino-3-oxo-1,3-dihydro-isobenzofuran-1-yl)-triphenyl-phosphonium bromide (III)
A solution of 6-nitro-3-bromo-3H-isobenzofuran-1-one (8.7 g, 0.034 mol) in ethyl propionate (464 ml) was heated to 70-75° C., and stirred while 313 ml of an ethyl propionate solution of triphenyl phosphine (36 g, 0.137 mol, 4 eq) were added dropwise over a time of 7 hours. Heating and stirring were continued overnight, and then the mixture was cooled down to room temperature. The precipitate was collected, dried up under vacuum and purified by flash chromatography over silica gel. A gradient of dichloromethane-methanol-acetic acid, from 97-3-0 to 93-5-2 was used as the eluant, to yield 6.2 g of the title compound. [M]+=410; HPLC r.t. 4.72; 1H-NMR (DMSO-d6), diagnostic signals (ppm): 6.01 (br. s, 2H exchangeable with deuterated water), 6.49 (dd, 1H), 6.80 (d, 1H), 6.87 (d, 1H), 7.62-8.00 (m, 15H), 8.17 (s, 1H).

reactant | 6-nitro-3-bromo-3H-isobenzofuran-1-one | 0.034 mol, 8.7 g | [N+](=O)([O-])C1=CC=C2C(OC(C2=C1)=O)Br | C8H4BrNO4
reactant | triphenyl phosphine | 0.137 mol, 36 g, 4 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | ethyl propionate | 464 ml | C(CC)(=O)OCC | C5H10O2
solvent | ethyl propionate | 313 ml | C(CC)(=O)OCC | C5H10O2
product | (5-Amino-3-oxo-1,3-dihydro-isobenzofuran-1-yl)-triphenyl-phosphonium bromide | 6.2 g | [Br-].NC=1C=C2C(OC(C2=CC1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | InChI=1S/C26H21NO2P.BrH/c27-19-16-17-23-24(18-19)25(28)29-26(23)30(20-10-4-1-5-11-20,21-12-6-2-7-13-21)22-14-8-3-9-15-22;/h1-18,26H,27H2;1H/q+1;/p-1
